US06211329B1
Synthesis of benzylidene protected 2,2-bis(hydroxymethyl)-propanoic acid, that is the acetal of benzaldehyde and 2,2-bis(hydroxymethyl)propanoic acid, yielding 5-methyl-2-phenyl-1,3-dioxane-5-carboxylic acid.

reactant | 2,2-bis(hydroxymethyl)-propanoic acid | OCC(C(=O)O)(C)CO | C5H10O4
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 5-methyl-2-phenyl-1,3-dioxane-5-carboxylic acid | CC1(COC(OC1)C1=CC=CC=C1)C(=O)O | C12H14O4
